US09238631B2
d) Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[2-(4-hydroxyphenyl)ethyl]hexanedioate
To a solution of 370 mg (5S)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[2-(4-hydroxyphenyl)ethyl]-6-oxohexanoic acid (0.69 mmol) in 1,4-dioxane (30 mL) was added 210 mg of 4-N,N-dimethylaminopyridine (1.72 mmol) and the mixture was stirred overnight at 100° C. (bath temperature), followed by refluxing for another 18 h. After cooling to room temperature, the mixture was concentrated in vacuo. The residue was purified by preparative HPLC (Method A) to give 169 mg (50% yield) of the target compound. In addition, 38 mg of unreacted starting material were recovered.

reactant | (5S)-6-tert-butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[2-(4-hydroxyphenyl)ethyl]-6-oxohexanoic acid | 0.69 mmol, 370 mg | C(C)(C)(C)OC([C@H](CCC(C(=O)O)(CCC1=CC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C28H43NO9
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Di-tert-butyl (2S)-2-[(tert-butoxycarbonyl)amino]-5-[2-(4-hydroxyphenyl)ethyl]hexanedioate | 169 mg, 50% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC(C)(C)C)CCC(C(=O)OC(C)(C)C)CCC1=CC=C(C=C1)O | C27H43NO7
